US07326699B2
To a solution of 3.84 g (7.25 mmol) of cis-2-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-isoindole-1,3-dione in 100 ml of dry ethanol are added dropwise at RT and under argon 3.75 g (3.64 ml; 74.96 mmol) of hydrazine monohydrate. After 2 h most of the starting material is not yet dissolved, and additional 1.6 ml of hydrazine monohydrate are added thereto (total amount: 14.8 equivalents). The reaction is complete after 20 h. The colorless precipitate is filtered off, and washed with ethanol. The filtrate is evaporated to dryness and the crude compound is purified by chromatography on silicagel (dichloromethane:methanol:aqueous concentrated ammonia=90:10:1) to provide cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. Analytical HPLC: tR=7.47 min (Grad 1); ES-MS: m/eo=400; 1H-NMR (CDCl3): 8.31/s (1H); 7.3-7.5/m (6H); 7.12/s (1H); 7.05-7.08/2 peaks (2H); 6.99/m (1H); 5.17/m (1H); 5.14/s (2H); 5.04/broad s (2H); 2.87/d (2H); 2.75-2.65/m (2H); 2.2-2.1/m (2H); 1.55/broad s (2H).

reactant | cis-2-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-isoindole-1,3-dione | 7.25 mmol, 3.84 g | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)CN2C(C1=CC=CC=C1C2=O)=O | C32H27N5O3
reactant | hydrazine monohydrate | O.NN
reactant | hydrazine monohydrate | 1.6 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
